US04205170
the mixture of 26 mg of ethyl 2-(10,11-dihydro dibenzo[b,f]thiepin-3-yl)-propionate, 1 ml of ethanol, 200 mg of potassium hydroxide and 1 ml of water was stirred at room temperature for 1 hour. The solvent was distilled off to obtain the residue, which was acidified with hydrochloric acid and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain 24 ml of 2-(10,11-dihydro dibenzo[b,f]thiepin-3-yl)-propionic acid as pale yellow oil.

reactant | ethyl 2-(10,11-dihydro dibenzo[b,f]thiepin-3-yl)-propionate | 26 mg | C1=CC(=CC=2SC3=C(CCC21)C=CC=C3)C(C(=O)OCC)C | C19H20O2S
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 200 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 ml | O | H2O
product | 2-(10,11-dihydro dibenzo[b,f]thiepin-3-yl)-propionic acid | 24 ml | C1=CC(=CC=2SC3=C(CCC21)C=CC=C3)C(C(=O)O)C | C17H16O2S
